US05440052
The triphenyl(4-phenoxybutyl)phosphonium bromide was converted to an ylide using n-butyllithium and refluxing with 3,5-dimethoxybenzaldehyde in ether for 3 hours gave 1-(3,5-dimethoxyphenyl)-5-phenoxy-1-pentene as a 2:1 mixture of E:Z isomers. Purification was by column chromatography and gave a 60% yield. Subsequently, hydrogenation of 1-(3,5-dimethyoxypheny)-5-phenoxy-1-pentene over palladium on carbon (10%) under 50 psi of hydrogen gas resulted in the quantitative reduction of the pentene carbon-carbon double bond in to yield 1-(3,5-dimethoxyphenyl)-5-phenoxy-1-pentane. This phenoxy-1-pentane was then contacted with boron tribromide in benzene for 72 hours at 25° C. to deprotect the methoxy groups of the compound and substitute the phenoxy moiety with bromide to form 5'-bromo olivetol. After purification, an 80% yield was achieved.

reactant | triphenyl(4-phenoxybutyl)phosphonium bromide | [Br-].C1(=CC=CC=C1)[P+](CCCCOC1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3,5-dimethoxybenzaldehyde | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
solvent | ether | CCOCC | C4H10O
product | 1-(3,5-dimethoxyphenyl)-5-phenoxy-1-pentene | 60% yield | COC=1C=C(C=C(C1)OC)C=CCCCOC1=CC=CC=C1 | C19H22O3
